US06288242B1
A solution of (3S, 4R)-2-(3-benzyl-4-hydroxy-chroman-7-yl)-4-trifluoromethyl-benzoic acid 2,2-dimethyl-propyl ester (2.34 g, 4.69 mmol) in isopropyl alcohol (23 mL) was treated with 10% aqueous sodium hydroxide (2.3 mL, 6.4 mmol) and heated at reflux for 3 hours. The reaction mixture was cooled to ambient temperature, poured into water (34 mL), and extracted with hexanes (23 mL) and isopropyl ether (13 mL). The aqueous layer was separated and extracted with hexanes (23 mL) and isopropyl ether (13 mL), adjusted to pH 2 with 6N aqueous hydrochloric acid, and extracted with ethyl acetate (two times 40 mL). The combined ethyl acetate extracts were washed with brine (40 mL), dried over magnesium sulfate, filtered and concentrated to a white foam which was recrystallized from toluene/hexanes. The resulting solids were filtered and washed with hexanes, and the wet cake was stirred with hexanes (20 mL) for 1 hour. The mixture was filtered, and the resulting solids were dried under vacuum to provide 1.01 g (50% yield) of (3S, 4R)-2-(3-benzyl-4-hydroxy-chroman-7-yl)-4-trifluoromethyl-benzoic acid as a white solid: 1H NMR (400 MHz, CDCl3) δ 8.00 (d, J=8.1 Hz, 1H), 7.67 (d, J=8.1 Hz, 1H), 7.64 (s, 1H), 7.18-7.36(m, 6H), 6.91 (dd, J=7.9, 1.7 Hz, 1H), 6.86 (d, J=1.7 Hz, 1H), 4.53 (d, J=4.2 Hz, 1H), 4.24 (dd, J=11.2, 2.7 Hz, 1H, 3.97 (dd, J=11.0, 4.0 HZ, 1H), 2.76 (dd, J=13.9, 6.4 Hz, 1H), 2.53 (dd, J=13.7, 9.3 Hz, 1H), 2.24-2.26 (m, 1H).

reactant | (3S, 4R)-2-(3-benzyl-4-hydroxy-chroman-7-yl)-4-trifluoromethyl-benzoic acid 2,2-dimethyl-propyl ester | 4.69 mmol, 2.34 g | CC(COC(C1=C(C=C(C=C1)C(F)(F)F)C1=CC=C2[C@@H]([C@H](COC2=C1)CC1=CC=CC=C1)O)=O)(C)C | C29H29F3O4
reactant | sodium hydroxide | 6.4 mmol, 2.3 mL | [OH-].[Na+]
reactant | water | 34 mL | O | H2O
solvent | isopropyl alcohol | 23 mL | C(C)(C)O | C3H8O
product | (3S, 4R)-2-(3-benzyl-4-hydroxy-chroman-7-yl)-4-trifluoromethyl-benzoic acid | 1.01 g, 50% yield | C(C1=CC=CC=C1)[C@H]1COC2=CC(=CC=C2[C@@H]1O)C1=C(C(=O)O)C=CC(=C1)C(F)(F)F | C24H19F3O4
